US05447925
To a solution of 4-hydroxyproline methyl ester hydrochloride (Rosen et al, Synthesis, 40, 1988) (60.4 mMol) in water (10 ml) and THF (20 ml), at 0° C., was added dropwise allyl chloroformate (70 mMol) in THF (20 ml). The solution was maintained at a slightly basic pH by the simultaneous addition of 4N sodium hydroxide (144 mMol). The mixture was stirred at 0° for 1 hour. The aqueous layer was separated and washed, twice, with dichloromethane (25 ml). The organic layers were combined, dried and evaporated to give N-allyloxycarbonyl hydroxyproline methyl ester as a pale yellow oil (86%): NMR (CDCl3) 2.2(m, 3H); 3.58(m, 2H); 3.73(2d, 3H); 4.54(m, 4H); 5.25(m, 2H); 5.9(m, 1H): M/S CI (M+H)+ =230.

reactant | 4-hydroxyproline methyl ester hydrochloride | 60.4 mMol | Cl.COC([C@H]1NCC(C1)O)=O
reactant | allyl chloroformate | 70 mMol | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydroxide | 144 mMol, 4N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-allyloxycarbonyl hydroxyproline methyl ester | 86% | COC([C@H]1N(C[C@@H](C1)O)C(=O)OCC=C)=O | C10H15NO5
